US08685969B2
1. 4-(1H-indol-6-yl)morpholine
A mixture of 1H-indol-6-amine (3.14 g, 23.76 mmol), 1-chloro-2-(2-chloroethoxy)ethane (4.18 mL, 35.6 mmol), and sodium carbonate (10.07 g, 95 mmol) in t-BuOH (90 mL) was heated at 100° C. in a pressure tube for 3.5 days. On cooling to room temperature, the mixture was diluted with ethyl acetate and filtered through CELITE®. The filtrate was concentrated under vacuum to dryness. To the residue was added water (50 mL). The mixture was adjusted to pH 11 with saturated NaHCO3 solution and extracted with CH2Cl2 (4×80 mL). The combined extract was washed with brine (50 mL) and dried over anhydrous MgSO4. The desired product (3.96 g, 19.58 mmol, 82% yield) was isolated as a beige solid with ISCO (300 g silica gel, solid loading, 20-50% ethyl acetate/hexane).

reactant | 1H-indol-6-amine | 23.76 mmol, 3.14 g | N1C=CC2=CC=C(C=C12)N | C8H8N2
reactant | 1-chloro-2-(2-chloroethoxy)ethane | 35.6 mmol, 4.18 mL | ClCCOCCCl | C4H8Cl2O
reactant | sodium carbonate | 95 mmol, 10.07 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | t-BuOH | 90 mL | CC(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1H-indol-6-yl)morpholine | 19.58 mmol, 3.96 g, 82% yield | N1C=CC2=CC=C(C=C12)N1CCOCC1 | C12H14N2O
